US05276025
Step A: Preparation of 4-acetyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepine-1,1-dioxide
A solution of 7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepin-1,1-dioxide (240 mg, 0.85 mmole) in acetonitrile (5 mL) and tetrahydrofuran (5 mL) containing acetic anhydride (100 mg, 0.94 mmol) and triethylamine (0.17 mL, 1.22 mmol) was stirred at ambient temperature for 1.5 hours. The solvents were evaporated and the residue chromatographed on silica gel. Elution with 10% methanol-methylene chloride gave 250 mg (77%) of the title compound. This material was used as is.

reactant | 7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepin-1,1-dioxide | 0.85 mmole, 240 mg | S(N)(=O)(=O)C1=CC=2CNCCS(C2S1)(=O)=O | C7H10N2O4S3
reactant | acetic anhydride | 0.94 mmol, 100 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.22 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-acetyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepine-1,1-dioxide | 250 mg, 77% | C(C)(=O)N1CCS(C2=C(C1)C=C(S2)S(N)(=O)=O)(=O)=O | C9H12N2O5S3
